US04751227
In a solvent mixture of 30 ml of methylene chloride and 30 ml of methanol, 0.59 g of 2-chloro-5-(imidazo[1,2-a]pyridin-6-yl)-6-methyl-3-pyridinecarbonitrile described above was stirred under reflux for 3 hours. After cooling, the solvent was removed by distillation and chloroform-water was added to the residue. The chloroform was taken by fractionation. After washing with water and drying over magnesium sulfate, chloroform was removed by distillation under reduced pressure. The residue was recrystallized from benzene-n-hexane to obtain 0.75 g of 5-(imidazo[1,2-a]pyridin-6-yl)-2-methoxy-6-methyl-3-pyridinecarbonitrile.

reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
reactant | 2-chloro-5-(imidazo[1,2-a]pyridin-6-yl)-6-methyl-3-pyridinecarbonitrile | 0.59 g | ClC1=NC(=C(C=C1C#N)C=1C=CC=2N(C1)C=CN2)C | C14H9ClN4
reactant | methanol | 30 ml | CO | CH4O
product | 5-(imidazo[1,2-a]pyridin-6-yl)-2-methoxy-6-methyl-3-pyridinecarbonitrile | 0.75 g | N=1C=CN2C1C=CC(=C2)C=2C=C(C(=NC2C)OC)C#N | C15H12N4O
